US04762838
In a 100 ml three-neck round bottom flask equipped with an internal thermometer and magnetic stirrer, a solution of 3.26 g (0.0116 mol) of ethyl 2-amino-4-bromobenzoate hydrochloride, 2.12 g (0.0279 mol) of ammonium thiocyanate and 30 ml of acetic acid was cooled to 15° C. Bromine (1.86 g, 0.0116 mol) was then added dropwise with stirring. A precipitate formed. When the addition was complete, the solution was allowed to warm to room temperature, and to stir for an hour. The product was filtered, dried under nitrogen, and recrystallized from hexane and ethyl acetate to furnish crystalline ethyl 2-amino-4-bromo-5-thiocyanatobenzoate: yield 2.05 g (59%); m.p. 149°-150° C.; ir(KBr) 3487 cm, 3453, 3375, 3346, 2980, 2146, 1697, 1614 among others; 1H-NMR(CDCl3) 1.4 ppm (triplet, 3H, CH2CH3), 4.3 (quartet, 2H, CH2CH3), 6.0 (broad singlet), 6.9 singlet, 1H, aromatic H), 8.1 (singlet, 1H aromatic H).

reactant | ethyl 2-amino-4-bromobenzoate hydrochloride | 0.0116 mol, 3.26 g | Cl.NC1=C(C(=O)OCC)C=CC(=C1)Br
reactant | ammonium thiocyanate | 0.0279 mol, 2.12 g | [S-]C#N.[NH4+]
reactant | Bromine | 0.0116 mol, 1.86 g | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-amino-4-bromo-5-thiocyanatobenzoate | NC1=C(C(=O)OCC)C=C(C(=C1)Br)SC#N | C10H9BrN2O2S
